US08383636B2
Concentrated hydrochloric acid (0.5 ml, 178 μmol) was added to a solution of 7-((((S)-2-((R)-2,2-dimethyl-1,3-dioxolan-4-yl)-3-(methylthio)propyl)(methyl)amino)methyl)-5H-pyrrolo[3,2-d]pyrimidin-4-amine (65 mg, 178 μmol) in methanol (5 ml) and the resulting reaction concentrated in vacuo. The resulting residue was purified by flash chromatography on silica gel eluting with 15% 7N NH3 in MeOH/DCM=>20% 7N NH3 in MeOH/DCM to afford (2R,3S)-4-(((4-amino-5H-pyrrolo[3,2-d]pyrimidin-7-yl)methyl)(methyl)amino)-3-(methylthiomethyl)butane-1,2-diol (35 mg, 61% yield) as a syrup. 1H NMR (CD3OD) δ 8.16 (s, 1H), 7.49 (s, 1H), 3.84 (d, J=13.5. Hz, 1H), 3.68 (m, 2H), 3.54 (d, J=4.8 Hz, 2H), 2.70 (m, 2H), 2.53 (dd, J=12.8, 3.8 Hz, 1H), 2.39 (dd, J=13.1, 8.1 Hz, 1H), 2.28 (s, 3H), 2.14 (m, 1H), 2.08 (s, 3H). 13C NMR (CD3OD) 152.5, 151.4, 147.6, 130.6, 115.6, 112.9, 75.4, 65.7, 59.7, 52.0, 42.7, 41.0, 36.0, 16.6.

reactant | hydrochloric acid | 178 μmol, 0.5 ml | Cl | ClH
reactant | 7-((((S)-2-((R)-2,2-dimethyl-1,3-dioxolan-4-yl)-3-(methylthio)propyl)(methyl)amino)methyl)-5H-pyrrolo[3,2-d]pyrimidin-4-amine | 178 μmol, 65 mg | CC1(OC[C@H](O1)[C@H](CN(C)CC1=CNC2=C1N=CN=C2N)CSC)C | C17H27N5O2S
solvent | methanol | 5 ml | CO | CH4O
product | (2R,3S)-4-(((4-amino-5H-pyrrolo[3,2-d]pyrimidin-7-yl)methyl)(methyl)amino)-3-(methylthiomethyl)butane-1,2-diol | 35 mg, 61% yield | NC=1C2=C(N=CN1)C(=CN2)CN(C[C@@H]([C@H](CO)O)CSC)C | C14H23N5O2S
